US08012974B2
1-[1-(2,2,2-Trifluoro-ethanesulfonyl)-piperidin-3-yl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea was prepared in the same manner from 1-piperidin-3-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride and 2,2,2-trifluoro-ethanesulfonyl chloride.

reactant | 1-piperidin-3-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride | Cl.Cl.N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C
reactant | 2,2,2-trifluoro-ethanesulfonyl chloride | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
product | 1-[1-(2,2,2-Trifluoro-ethanesulfonyl)-piperidin-3-yl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | FC(CS(=O)(=O)N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C)(F)F | C20H31F3N6O4SSi
